US06117365
N-(3,4-Dihydroxybenzyl)-3,4-dihydroxy-E-cinnamamide (11)
N-Succinimidyl 3,4-bis(acetyloxy)-E-cinnamate (502 mg, 1.39 mmol) and 3,4-dihy-droxybenzylamine hydrobromide (311 mg, 1.41 mmol) were dissolved in water (10 ml) and 1.4-dioxane (10 ml) under nitrogen. After NaHCO3 (350 mg, 4.16 mmol) had been added, the solution was stirred for 2.5-3 h at about 70° C. and left to cool. The mixture was extracted with ethyl acetate the combined organic phases were washed with hydrochloric acid (10%), water and saturated aqueous NaCl solution, dried over Na2SO4 and filtered, and the filtrate was evaporated under reduced pressure and the residue was purified by chromatography on silica gel. Yield: 254 mg (61%); 1H-NMR (400 MHz, CD3OD): δ=7.41 (1H, d, 15.6 Hz), 7.00 (1H, d, 2.1 Hz), 6.90 (1H, ddd, 8.13 Hz, 2.13 Hz, 0.5 Hz), 6.78-6.70 (3H, m), 6.63 (1H, dd, 8.1 Hz, 2.1 Hz), 6.39 (1H, d, 15.6 Hz), 4.32 (2H, s) ppm; 13C-NMR (100 MHz, CD3OD): δ=169.1 (s), 148.8 (s), 146.8 (s), 146.5 (s), 145.7 (s), 142.4 (d), 131.5 (s), 128.4 (s), 122.1 (d), 120.3 (d), 118.4 (d), 116.5 (d), 116.3 (d), 116.0 (d), 115.1 (d), 44.1 (t) ppm; MS (EI): m/z=301.2 (52%), 179.1 (45%), 178.2 (26%), 163.1 (64%), 138.1 (100%), 135.1 (22%), 134.1 (23%), 123.1 (25%), 89.1 (34%), 77.1 (23%).

reactant | 3,4-dihy-droxybenzylamine hydrobromide | 1.41 mmol, 311 mg | Br.OC=1C=C(CN)C=CC1O
reactant | 1.4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | NaHCO3 | 4.16 mmol, 350 mg | C(=O)(O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
product | N-(3,4-Dihydroxybenzyl)-3,4-dihydroxy-E-cinnamamide | OC=1C=C(CNC(\C=C\C2=CC(=C(C=C2)O)O)=O)C=CC1O | C16H15NO5
